US07332631B2
Preparation of 3-(3-Cyanopropylsulfanyl)benzoic acid (VIB 239)
To solution of 3-mercaptobenzoic acid (250 mg, 1.62 mmole) in ethanol (10 ml), anhydrous potassium carbonate (896 mg, 6.48 mmole) was added followed by bromobutyronitrile (239.97 mg, 1.62 mmole). The reaction mixture was refluxed overnight. The ethanol was evaporated and water added. The basic solution was extracted with ethyl acetate. The aqueous layer was acidified and the resulting precipitate filtered and dried to yield 196 mg product. M.S. m/s 220 (M−1)+. 1H NMR (DMSO) δ 1.79 (2H, m, —CH2-), 2.37 (2H, t, —CH2-), 3.02 (2H, t, CH2), 7.56 (1H, d, 1×ArH), 7.74 (1H, d, 1×ArH), 7.83 (1H, bs, 1H, 1×ArH).

reactant | 3-mercaptobenzoic acid | 1.62 mmole, 250 mg | SC=1C=C(C(=O)O)C=CC1 | C7H6O2S
reactant | potassium carbonate | 6.48 mmole, 896 mg | C([O-])([O-])=O.[K+].[K+]
reactant | bromobutyronitrile | 1.62 mmole, 239.97 mg | BrC(C#N)CC | C4H6BrN
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-(3-Cyanopropylsulfanyl)benzoic acid | 196 mg | C(#N)CCCSC=1C=C(C(=O)O)C=CC1 | C11H11NO2S
